US05212171
Preparation of 6-bromo-2-(4-nitrophenyl)-1,3-benzodioxan
An intimately ground mixture of 5-bromo-2hydroxybenzyl alcohol (4.06 g), 4-nitrobenzaldehyde (3.93 g) and benzoic acid (0.2 g) was stirred and heated to 85° C. (±5° C.) under nitrogen for 88 hours. The clear melt which formed initially gradually solidified throughout the reaction period. The resulting solidified mass was cooled and dissolved in ethyl acetate (250 ml). The solution was then washed with 20% aqueous sodium carbonate, 20% aqueous sodium bisulphite and finally with brine. After drying over sodium sulphate, the organic phase was evaporated to yield a solid residue which was purified by briefly suspending in hot ethanol (approx. 75 ml) and cooling to 0°-5° C. The pure product was obtained as pale buff-coloured crystals (4.69g, 70%), mp 163°-164° C.

reactant | 5-bromo-2hydroxybenzyl alcohol | 4.06 g | BrC=1C=CC(=C(CO)C1)O | C7H7BrO2
reactant | 4-nitrobenzaldehyde | 3.93 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | benzoic acid | 0.2 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 6-bromo-2-(4-nitrophenyl)-1,3-benzodioxan | 4.69g, 70% | BrC1=CC2=C(OC(OC2)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H10BrNO4
